US07727989B2
c) 6-Chloro-4-(6-(4-methylpiperazin-1-ylmethyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-benzimidazol-2-yl]-2-(2-trimethylsilanylethoxymethyl)-2H-pyridazin-3-one
6-Chloro-4-(6-formyl-1-(2-trimethylsilanylethoxymethyl)-1H-benzimidazol-2-yl]-2-(2-trimethylsilanylethoxymethyl)-2H-pyridazin-3-one is dissolved in dichloro-methane. 4-Methylpiperazine and acetic acid are added. After 15 minutes, sodium triacetoxyborohydride is added in several portions over the course of 3 hours. After conversion is complete, saturated aqueous NaHCO3 solution is added and the reaction solution is stirred until no further CO2 evolution is observed. It is diluted with dichloromethane, and the aqueous phase is extracted with dichloromethane. The combined organic phases are dried with MgSO4, and the solvent is removed in a rotary evaporator.

reactant | 6-Chloro-4-(6-formyl-1-(2-trimethylsilanylethoxymethyl)-1H-benzimidazol-2-yl]-2-(2-trimethylsilanylethoxymethyl)-2H-pyridazin-3-one | ClC=1C=C(C(N(N1)COCC[Si](C)(C)C)=O)C1=NC2=C(N1COCC[Si](C)(C)C)C=C(C=C2)C=O | C24H35ClN4O4Si2
reactant | 4-Methylpiperazine | CN1CCNCC1 | C5H12N2
reactant | sodium triacetoxyborohydride | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | CO2 | C(=O)=O | CO2
solvent | dichloro-methane | ClCCl | CH2Cl2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 6-Chloro-4-(6-(4-methylpiperazin-1-ylmethyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-benzimidazol-2-yl]-2-(2-trimethylsilanylethoxymethyl)-2H-pyridazin-3-one | ClC=1C=C(C(N(N1)COCC[Si](C)(C)C)=O)C1=NC2=C(N1COCC[Si](C)(C)C)C=C(C=C2)CN2CCN(CC2)C | C29H47ClN6O3Si2
